US07169761B2
A 1.6 M n-hexane solution of n-butyl lithium (14.0 ml) was added dropwise to a solution of (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[3-bromo-5-(methoxymethyl)phenyl]-D-glucitol (7.8 g) in THF (5.0 ml) at −78° C. and the mixture was stirred for 30 minutes. DMF (1.0 ml) was added dropwise to the reaction mixture and the mixture was stirred for four hours. Saturated aqueous solution of ammonium chloride was added to the reaction mixture and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated. The residue was purified by silica gel column chromatography (n-hexane-ethyl acetate) to obtain methyl 3-methoxymethyl-5-[(2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-[(benzyloxy)methyl]-tetrahydro-2H-pyran-2-yl]benzaldehyde (2.6 g).

reactant | n-hexane | 1.6 M | CCCCCC | C6H14
reactant | n-butyl lithium | 14.0 ml | C(CCC)[Li]
reactant | (1S)-1,5-anhydro-2,3,4,6-tetra-O-benzyl-1-[3-bromo-5-(methoxymethyl)phenyl]-D-glucitol | 7.8 g | C(C1=CC=CC=C1)O[C@H]1[C@@H](O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)C1=CC(=CC(=C1)COC)Br | C42H43BrO6
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | THF | 5.0 ml | C1CCOC1 | C4H8O
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
product | methyl 3-methoxymethyl-5-[(2S,3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-[(benzyloxy)methyl]-tetrahydro-2H-pyran-2-yl]benzaldehyde | 2.6 g | CC1=C(C=O)C=C(C=C1COC)[C@@H]1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C44H46O7
